US07858630B2
Step 3: trans-(4-tert-Butoxycarbonylamino-cyclohexyl)-acetic acid ethyl ester
To a solution of trans-(4-amino-cyclohexyl)-acetic acid ethyl ester (1.28 g, 7 mmol), in dichloromethane (15 ml), di-tert-butyl-dicarbonate (2.26 g, 10 mmol), triethylamine (0.699 ml, 7 mmol) and 4-dimethylaminopyridine (0.042 mL, 0.35 mmol) were added. The mixture was stirred for 8 h until TLC indicated completion of the reaction. Water was added and the solution was extracted three times with dichloromethane. The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered and evaporated. The crude product was purified by flash-chromatography on silica gel with hexane:ethyl acetate (4:2 to 3:2) to give 1.2 g (60%) of the product as a white solid. MS (m/e): 284.4 (M−H+).

reactant | trans-(4-amino-cyclohexyl)-acetic acid ethyl ester | 7 mmol, 1.28 g | C(C)OC(C[C@@H]1CC[C@H](CC1)N)=O | C10H19NO2
reactant | di-tert-butyl-dicarbonate | 10 mmol, 2.26 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 7 mmol, 0.699 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.35 mmol, 0.042 mL | CN(C1=CC=NC=C1)C | C7H10N2
product | trans-(4-tert-Butoxycarbonylamino-cyclohexyl)-acetic acid ethyl ester | 1.2 g, 60% | C(C)OC(C[C@@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C)=O | C15H27NO4
